US09079866B2
1-((2-Bromo-5-(trifluoromethyl)phenyl)sulfonyl)-4-methylpiperazine
The title compound was prepared in a manner similar to that described for Intermediate EU using 1-methylpiperazine and 2-bromo-5-(trifluoromethyl)benzene-1-sulfonyl chloride. 1H NMR (500 MHz, CDCl3) δ 8.37-8.28 (d, J=2.2, 1H), 7.98-7.86 (d, J=8.2, 1H), 7.73-7.59 (d, J=8.2, 1H), 3.45-3.31 (t, J=5.0, 4H), 2.60-2.42 (t, J=4.9, 4H), 2.40-2.20 (d, J=1.5, 3H).

reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | 2-bromo-5-(trifluoromethyl)benzene-1-sulfonyl chloride | BrC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)Cl | C7H3BrClF3O2S
product | 1-((2-Bromo-5-(trifluoromethyl)phenyl)sulfonyl)-4-methylpiperazine | BrC1=C(C=C(C=C1)C(F)(F)F)S(=O)(=O)N1CCN(CC1)C | C12H14BrF3N2O2S
